US05045552
2-[{4-(2-Phenoxyethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole
A mixture comprising 1.0 g of [4-(2-phenoxyethoxy)-3-methylpyridine-2-yl]methanol, 0.60 ml of thionyl chloride and 12 ml of dichloromethane was kept at 40° C. for 60 minutes to carry out the reaction. The reaction mixture was distilled to remove the solvent. Thus, a brown syrupy residue was obtained. 50 ml of ethanol, 0.70 g of sodium hydroxide and 1.2 g of 2-mercaptobenzimidazole were added to the residue. The obtained mixture was heated at 70° C. for two hours and distilled to remove the ethanol. The obtained residue was chromatographed over a silica gel column and eluted with 30% ethyl acetate in hexane and then with ethyl acetate to obtain 1.2 g of the title compound as a white solid.

reactant | [4-(2-phenoxyethoxy)-3-methylpyridine-2-yl]methanol | 1.0 g | O(C1=CC=CC=C1)CCOC1=C(C(=NC=C1)CO)C | C15H17NO3
reactant | thionyl chloride | 0.60 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 0.70 g | [OH-].[Na+]
reactant | 2-mercaptobenzimidazole | 1.2 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 2-[{4-(2-Phenoxyethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole | 1.2 g | O(C1=CC=CC=C1)CCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C22H21N3O2S
